US08067445B2
Step 1: (2′-{[(2-Chloro-benzyloxycarbonyl)-ethyl-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester
To (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester (0.103 g, 0.27 mmol) and triethylamine (0.06 mL, 0.40 mmol) in CH2Cl2 (1 mL) was added 2-chlorobenzyl chloroformate (0.06 mL, 0.40 mmol), and the reaction was stirred at room temperature for 1 hour. The mixture was diluted with CH2Cl2 and H2O, and the aqueous layer was extracted with CH2Cl2. The combined organic layers were dried over Na2SO4, decanted, and concentrated, and the residue was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give the title compound.

reactant | (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | 0.27 mmol, 0.103 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C20H22F3NO3
reactant | triethylamine | 0.40 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chlorobenzyl chloroformate | 0.40 mmol, 0.06 mL | ClC(=O)OCC1=C(C=CC=C1)Cl | C8H6Cl2O2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | (2′-{[(2-Chloro-benzyloxycarbonyl)-ethyl-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)OCC1=C(C=CC=C1)Cl)=O | C28H27ClF3NO5
